* optical input:                                               
*    connect voltage source between optical input(+) and       
*    optical input(-) with voltage representing                 
*    irradiance (1 mV represents 1 mW/cm2)                     
*    For default (no light), set both optical inputs to        
*    ground (0) = 0VDC                                           
*---------------------------------------------------------------*
* parameter SENS:                                              
*    the subcircuit also contains a parameter that may         
*    be changed/handed over by the user:                       
*    SENS = rel. spectral sensitivity in % for the wavelength  
*           of interest normalized to the peak rel. sensitivity
*    default = 100 (%). Needs to be adapted according to       
*              datasheet for wavelength of interest            
*              For standard IR phototransistor 100(%) works     
*              typ. well for 850-950 nm                        
*              For ambient light sensors 100(%) refers to      
*              around 550 nm                                   
*    RESP = photocurrent / irradiance, e.g. 50uA/1mW/cm2 = 50e-3 (mA/(mW/cm2))          
*              usually this parameter don’t need to be changed 
*             1e-2 to compensate for percentage in SENS       
*    LENS = lens-factor, defaut = 1 for no lens                
*---------------------------------------------------------------*
* The model includes parameters for:                            
*    1) forward direction (Vcollector > Vemitter)              
* The model has limited accuracy for:                          
*    2) near-saturation and saturation condition               
*    3) base transit time (dynamic behavor)                    
*    4) noise                                                  
*    5) intrinsic optical-electrical conversion frequ. response
*****************************************************************

*F003
**** BPX38 SENS=100 at 880nm, lens=1 
*** 11/9/2011
.subckt BPX38 Opt Base Coll Emit
+params: SENS=100 resp=3.6e-5 lens=1
Bi Emit Base i={SENS*resp*lens}*v(Opt) Rpar=10G
Q001 Coll Base Emit F003
.MODEL F003 NPN (IS=4.92e-14 BF=220 NF=1.035 VAF=468
+ ISE=4.92e-14 NE=2 RE=1.42 RC=43 IKF=130e-3
+ CJE=5.37E-11 MJE=0.347 VJE=0.69 FC=0.5 CJC=3.67E-12
+ MJC=0.43 VJC=0.481 TR=1n TF=12e-9)
.ends
*
**** BPX43 SENS=100 at 880nm, lens=6.4 
*** 11/9/2011
.subckt BPX43 Opt Base Coll Emit
+params: SENS=100 resp=3.6e-5 lens=6.4
Bi Emit Base i={SENS*resp*lens}*v(Opt) Rpar=10G
Q001 Coll Base Emit F003
.MODEL F003 NPN (IS=4.92e-14 BF=220 NF=1.035 VAF=468
+ ISE=4.92e-14 NE=2 RE=1.42 RC=43 IKF=130e-3
+ CJE=5.37E-11 MJE=0.347 VJE=0.69 FC=0.5 CJC=3.67E-12
+ MJC=0.43 VJC=0.481 TR=1n TF=12e-9)
.ends

**** SFH3401 SENS=100 at 850nm, lens=1 
*** 11/9/2011
.subckt SFH3401 Opt Base Coll Emit
+params: SENS=100 resp=2.5e-5 lens=1
Bi Emit Base i={SENS*resp*lens}*v(Opt) Rpar=10G
Q001 Coll Base Emit F144
.MODEL F144 NPN (IS=6.02e-14 BF=510 NF=1.043 VAF=229
+ IKF=61E-3 ISE=6.02E-14 NE=2 RE=2.84 
+ CJE=1.96E-11 MJE=0.336 VJE=0.671 FC=0.5 CJC=3.87E-11
+ MJC=0.445 VJC=0.539 TR=1n TF=0.1e-13)
.ends

**** SFH303 SENS=100 at 990nm, lens=4 
*** 11/9/2011
.subckt SFH303 Opt Base Coll Emit
+params: SENS=100 resp=2.13e-5 lens=4
Bi Emit Base i={SENS*resp*lens}*v(Opt) Rpar=10G
Q001 Coll Base Emit F431
.MODEL F431 NPN (IS=20.000E-15 BF=383.74 NF=1.0100 VAF=315
+ IKF=.93501 ISE=41.698E-15 NE=1.9980 VAR=300 RE=34.400 RC=17.600
+ CJE=25.058E-12 MJE=0.332 VJE=0.678 FC=0.5 CJC=2.0000E-12
+ MJC=0.350 VJC=0.545 TR=1n TF=6.5E-9)
.ends
*
**** BPY62 SENS=100 at 830nm, lens=5.5 
*** 11/9/2011
.subckt BPY62 Opt Base Coll Emit
+params: SENS=100 resp=2.13e-5 lens=5.5
Bi Emit Base i={SENS*resp*lens}*v(Opt) Rpar=10G
Q001 Coll Base Emit F431
.MODEL F431 NPN (IS=20.000E-15 BF=223.74 NF=1.0100 VAF=315
+ IKF=.93501 ISE=41.698E-15 NE=1.9980 VAR=300 RE=34.400 RC=17.600
+ CJE=25.058E-12 MJE=0.332 VJE=0.678 FC=0.5 CJC=2.0000E-12
+ MJC=0.350 VJC=0.545 TR=1n TF=6.5E-9)
.ends

**** BP103 SENS=100 at 850nm, lens=1 
*** 11/9/2011
.subckt BP103 Opt Base Coll Emit
+params: SENS=100 resp=2.13e-5 lens=1
Bi Emit Base i={SENS*resp*lens}*v(Opt) Rpar=10G
Q001 Coll Base Emit F431
.MODEL F431 NPN (IS=20.000E-15 BF=223.74 NF=1.0100 VAF=315
+ IKF=.93501 ISE=41.698E-15 NE=1.9980 VAR=300 RE=34.400 RC=17.600
+ CJE=25.058E-12 MJE=0.332 VJE=0.678 FC=0.5 CJC=2.0000E-12
+ MJC=0.350 VJC=0.545 TR=1n TF=6.5E-9)
.ends
